US09302996B2
To methylene chloride (10 mL) and saturated brine (10 mL) were added methyl 3-[4-(5-carbamimidoyl-4-methylpyridin-2-yl)phenoxy]-2,2-dimethylpropanoate (500 mg) and potassium carbonate (430.3 mg), then, 2-bromo-1-[1-(trifluoromethyl)cyclopropyl]-ethanone (431.6 mg) was added to the mixture, and the resulting mixture was stirred at 50° C. overnight. The organic layer was separated and the residue obtained by concentrating the same under reduced pressure was purified by silica gel column chromatography (n-hexane:ethyl acetate=75:25 to 25:75) to obtain methyl 2,2-dimethyl-3-[4-(4-methyl-5-{5-[1-(trifluoromethyl)cyclopropyl]-1H-imidazol-2-yl}pyridin-2-yl)phenoxy]propanoate (423 mg).

reactant | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
reactant | methyl 3-[4-(5-carbamimidoyl-4-methylpyridin-2-yl)phenoxy]-2,2-dimethylpropanoate | 500 mg | C(N)(=N)C=1C(=CC(=NC1)C1=CC=C(OCC(C(=O)OC)(C)C)C=C1)C | C19H23N3O3
reactant | potassium carbonate | 430.3 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromo-1-[1-(trifluoromethyl)cyclopropyl]-ethanone | 431.6 mg | BrCC(=O)C1(CC1)C(F)(F)F | C6H6BrF3O
solvent | brine | 10 mL | [Cl-].[Na+].O
product | methyl 2,2-dimethyl-3-[4-(4-methyl-5-{5-[1-(trifluoromethyl)cyclopropyl]-1H-imidazol-2-yl}pyridin-2-yl)phenoxy]propanoate | 423 mg | CC(C(=O)OC)(COC1=CC=C(C=C1)C1=NC=C(C(=C1)C)C=1NC(=CN1)C1(CC1)C(F)(F)F)C | C25H26F3N3O3
